US05230816
3,9-Bis(N-methyl-N-octadecylamino)-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane
The procedure of Example 1 is repeated using 18.4 g (70 mmol) of 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane, 39.5 g (140 mmol) of N-methyl-N-octadecylamine and 19.5 mL (140 mmol) of triethylamine in 250 mL of toluene to give a crude reaction residue. The residue is purified by recrystallization from a mixture of toluene and acetonitrile to give 32 g (64% yield) of the title compound as an off-white solid melting at 70°-72° C.

reactant | 3,9-dichloro-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | 70 mmol, 18.4 g | ClP1OCC2(CO1)COP(OC2)Cl | C5H8Cl2O4P2
reactant | N-methyl-N-octadecylamine | 140 mmol, 39.5 g | CNCCCCCCCCCCCCCCCCCC | C19H41N
reactant | triethylamine | 140 mmol, 19.5 mL | C(C)N(CC)CC | C6H15N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | 3,9-Bis(N-methyl-N-octadecylamino)-2,4,8,10-tetraoxa-3,9-diphosphaspiro[5.5]undecane | 32 g, 64% yield | CN(CCCCCCCCCCCCCCCCCC)P1OCC2(CO1)COP(OC2)N(C)CCCCCCCCCCCCCCCCCC | C43H88N2O4P2
